US04390702
In the same manner as in Example 1, methyl 3-(2-nitrophenyl)pyruvate (2.23 g; 10 mmol) is dissolved in acetonitrile (50 g) and reacted with fluorine. By distilling off the solvent under reduced pressure, there is obtained a crude product, whicch is rectified to give methyl 3-(2-nitrophenyl)-3-fluoropyruvate.

reactant | methyl 3-(2-nitrophenyl)pyruvate | 10 mmol, 2.23 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(C(=O)OC)=O | C10H9NO5
reactant | fluorine | FF | F2
solvent | acetonitrile | 50 g | C(C)#N | C2H3N
product | methyl 3-(2-nitrophenyl)-3-fluoropyruvate | [N+](=O)([O-])C1=C(C=CC=C1)C(C(C(=O)OC)=O)F | C10H8FNO5
